US07700634B2
1-(Cyclohexyl)methyl-3-{2-[(diethylamino)methyl]-[1,3]-oxazol-5-yl}-7-methoxy-1H-indole, hydrochloride salt
To a solution of 2-chloro-N-[2-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-2-oxoethyl]-acetamide (200 mg, 0.53 mmol) in tetrahydrofuran (2 ml) was added diethylamine (0.55 ml, 5.3 mmol) and the reaction mixture subjected to microwave irradiation at 150° C. for 15 minutes. The reaction mixture was poured into a separating funnel and dichloromethane (30 ml) added. The organics were washed sequentially with 5% aqueous sodium carbonate and brine. The organics were dried over magnesium sulfate, filtered and the solvent removed in vacuo to give a brown solid. The brown solid was dissolved in tetrahydrofuran (2 ml) and (methoxycarbonylsulfamoyl)triethylammonium hydroxide, inner salt (505 mg, 2.12 mmol) added. The resulting reaction mixture was subjected to microwave irradiation at 150° C. for 15 minutes and quenched with methanol (20 ml). The solvent was removed in vacuo and the residue purified by flash chromatography using 50% (v/v) ethyl acetate in heptane, followed by semi-prep. HPLC [Method (ii)] to afford a white solid. The solid was dissolved in dichloromethane (˜5 ml) and hydrogen chloride (1M solution in diethyl ether; 1 ml) added. The mixture was concentrated in vacuo to afford the title compound as a 1:1 hydrochloride salt (77 mg, 0.2 mmol). 1H NMR (400 MHz, CD3OD) δH 0.97-1.12 (2H, m), 1.15-1.25 (3H, m), 1.44 (6H, t, J 6.9), 1.52-1.62 (2H, m), 1.62-1.77 (3H, m), 1.77-1.9 (1H, m), 3.36 (4H, q, J 6.7), 3.95 (3H, s), 4.26 (2H, d, J 7), 4.64 (2H, s), 6.77 (1H, d, J 8), 7.11 (1H, t, J 8), 7.38 (1H, s), 7.41 (1H, d, J 8), 7.56 (1H, s); EsIMS: m/z 396.1 [M+H]+, 323.4, 268.4.

reactant | 2-chloro-N-[2-(1-cyclohexylmethyl-7-methoxy-1H-indol-3-yl)-2-oxoethyl]-acetamide | 0.53 mmol, 200 mg | ClCC(=O)NCC(=O)C1=CN(C2=C(C=CC=C12)OC)CC1CCCCC1 | C20H25ClN2O3
reactant | diethylamine | 5.3 mmol, 0.55 ml | C(C)NCC | C4H11N
reactant | hydrogen chloride | 1M, 1 ml | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | (methoxycarbonylsulfamoyl)triethylammonium hydroxide | [OH-].COC(=O)NS(=O)(=O)[N+](CC)(CC)CC
solvent | dichloromethane | ˜5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-(Cyclohexyl)methyl-3-{2-[(diethylamino)methyl]-[1,3]-oxazol-5-yl}-7-methoxy-1H-indole, hydrochloride salt | Cl.C1(CCCCC1)CN1C=C(C2=CC=CC(=C12)OC)C1=CN=C(O1)CN(CC)CC | InChI=1S/C24H33N3O2.ClH/c1-4-26(5-2)17-23-25-14-22(29-23)20-16-27(15-18-10-7-6-8-11-18)24-19(20)12-9-13-21(24)28-3;/h9,12-14,16,18H,4-8,10-11,15,17H2,1-3H3;1H
